US07456200B2
2-Fluoro-5-methyl-benzoic acid hydrazide (320 mg, 1.9 mmol) and 2-chloro-1,1,1-triethoxy-ethane (1.9 ml) were heated in a sealed vial at 120° C. for 30 min. The reaction mixture was place directly onto a flash column (silica gel) and purified by using 0-5% ethyl acetate in hexanes to afford 2-chloromethyl-5-(2-fluoro-5-methyl-phenyl)-[1,3,4]oxadiazole (284.5 mg, 66%). 1H NMR (CDCl3) d (ppm): 7.89 (q, 1H), 7.36 (m, 1H), 7.16 (t, 1H), 4.81 (s, 2H), 2.43 (s, 3H).

reactant | 2-Fluoro-5-methyl-benzoic acid hydrazide | 1.9 mmol, 320 mg | FC1=C(C(=O)NN)C=C(C=C1)C | C8H9FN2O
reactant | 2-chloro-1,1,1-triethoxy-ethane | 1.9 ml | ClCC(OCC)(OCC)OCC | C8H17ClO3
product | 2-chloromethyl-5-(2-fluoro-5-methyl-phenyl)-[1,3,4]oxadiazole | 284.5 mg, 66% | ClCC=1OC(=NN1)C1=C(C=CC(=C1)C)F | C10H8ClFN2O
